US05053422
B) 2,5-Dioxohexahydro-1H-pyrrolo[1,2-a]imidazole
To a suspension of 10% palladium on charcoal (11.6 g) in water (60 ml), a solution of ethyl 3-benzyl-5-oxo-2-imidazolidinepropanoate (58 g, 0.2mol) and ammonium formate (52.9 g, 0.84 mol) in methanol (580 ml) were added. The mixture was refluxed under nitrogen for 1 hour. After cooling to 40° C., 32% ammonia (145 ml) was added and the temperature was maintained between 40 and 50° C. for 1.5 hours. After cooling to room temperature, the catalyst was removed by filtration and the solution was evaporated to dryness. The residue was diluted with water (700 ml) and stirred in the presence of ion exchange resins Amberlite IR 120 H (200 ml) and Amberlite IRA 68 (200 ml) for 1.5 hours. The resins were filtered off and washed with water (600 ml). The clear solution was evaporated under vacuum at 60° C. to afford an oil which was dried by azeotropic distillation with ethanol. The resulting residue was triturated with acetone (75 ml) to afford 19.7 g (67%) of the title compound as a white solid, m.p. 154°-157° C.

reactant | ethyl 3-benzyl-5-oxo-2-imidazolidinepropanoate | 0.2mol, 58 g | C(C1=CC=CC=C1)N1C(NC(C1)=O)CCC(=O)OCC | C15H20N2O3
reactant | ammonium formate | 0.84 mol, 52.9 g | C(=O)[O-].[NH4+]
reactant | ammonia | 145 ml | N | H3N
catalyst | palladium on charcoal | 11.6 g | [Pd] | Pd
solvent | water | 60 ml | O | H2O
solvent | methanol | 580 ml | CO | CH4O
product | 2,5-Dioxohexahydro-1H-pyrrolo[1,2-a]imidazole | 19.7 g, 67% | O=C1NC2N(C1)C(CC2)=O | C6H8N2O2
